US07282588B2
N,N-dimethyl-N′-[4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-oxazol-4-yl)phenyl]urea
Following the procedure described for Intermediate 31 with 4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-oxazol-4-yl)aniline and dimethylcarbamoyl chloride provided the title product. ESMS[M+H]+: 516.2

reactant | 4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-oxazol-4-yl)aniline | CC=1OC(=C(N1)C1=CC=C(N)C=C1)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C24H20N4O3S
reactant | dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | N,N-dimethyl-N′-[4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-oxazol-4-yl)phenyl]urea | CN(C(=O)NC1=CC=C(C=C1)C=1N=C(OC1C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C)C | C27H25N5O4S
